US05032583
N-[(1S,trans)-2-Hydroxycyclopentyl]adenosine
A solution of 2',3',5'-tri-O-acetyl-N-[(1S,trans)-2-hydroxycyclopentyl]adenosine (0.34 g) in methanol (7 ml) containing t-butylamine (3 ml) was allowed to stand at 23° for 16 h. The solution was evaporated to dryness and residual t-butylamine was removed azeotropically with methanol to leave a glass. Crystallisation of a sample of this glass (0.19 g) from a mixture of methanol and ethyl acetate (1:20) gave the title compound (0.15 g), m.p. 160°-163°. Its chromatographic behaviour resembled that of authentic material.

reactant | 2',3',5'-tri-O-acetyl-N-[(1S,trans)-2-hydroxycyclopentyl]adenosine | 0.34 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(N[C@@H]3[C@H](CCC3)O)=NC=NC12 | C21H27N5O8
reactant | t-butylamine | 3 ml | C(C)(C)(C)N | C4H11N
solvent | methanol | 7 ml | CO | CH4O
product | N-[(1S,trans)-2-Hydroxycyclopentyl]adenosine | 0.15 g | O[C@@H]1[C@H](CCC1)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C15H21N5O5
